US05981521
Step 3: 1,2,3,4-Tetrahydro-7-methoxy-3-methoxycarbonyl-1-methyl-isoquinoline hydroiodide
To a solution of 1,2,3,4-tetrahydro-7-methoxy-3-methoxycarbonyl-1-methyl-isoquinoline (0.526 g, 2.24 mmol) in methanol (10 mL) cooled to 0° C. was added dropwise a solution of 57% HI solution (0.33 mL). The ice bath was removed and the solution was stirred at rt for 20 min. To the bright orange solution was added ether (100 mL) and the mixture was stirred for 10 min. The light yellow precipitate was filtered and dried in vacuo (P2O5) to give the desired salt (0.736 g).

reactant | 1,2,3,4-tetrahydro-7-methoxy-3-methoxycarbonyl-1-methyl-isoquinoline | 2.24 mmol, 0.526 g | COC1=CC=C2CC(NC(C2=C1)C)C(=O)OC | C13H17NO3
reactant | HI | 0.33 mL | I | HI
solvent | methanol | 10 mL | CO | CH4O
product | 1,2,3,4-Tetrahydro-7-methoxy-3-methoxycarbonyl-1-methyl-isoquinoline hydroiodide | 0.736 g | I.COC1=CC=C2CC(NC(C2=C1)C)C(=O)OC | InChI=1S/C13H17NO3.HI/c1-8-11-7-10(16-2)5-4-9(11)6-12(14-8)13(15)17-3;/h4-5,7-8,12,14H,6H2,1-3H3;1H
